US07572801B2
6-Chloro-2-(3-phenoxy-propoxy)-3H-pyrido[2,3-d]pyrimidin-4-one
A solution of 2,6-dichloro-3H-pyrido[2,3-d]pyrimidin-4-one (60 mg, crude), 3-phenoxy-1-propanol [6180-61-6] (127 mg, 0.84 mmol), and KOtBu (62 mg, 0.55 mmol) in DMSO (1 ml) was heated in a microwave oven to 180° C. for 15 min. After filtration, the title compound (2.3 mg, 6.9 Amok; 2.5%, MS: m/e=330.3 [M−H−]) was obtained from the reaction mixture by preparative, reverse-phase HPLC (Agilent Zorbax XdB C18 column, solvent gradient 5-95% CH3CN in 0.1% TFA(aq) over 7 min, flow rate 30 ml/min).

reactant | 2,6-dichloro-3H-pyrido[2,3-d]pyrimidin-4-one | 60 mg | ClC=1NC(C2=C(N1)N=CC(=C2)Cl)=O | C7H3Cl2N3O
reactant | 3-phenoxy-1-propanol | 0.84 mmol, 127 mg | O(C1=CC=CC=C1)CCCO | C9H12O2
reactant | KOtBu | 0.55 mmol, 62 mg | CC(C)(C)[O-].[K+]
solvent | DMSO | 1 ml | CS(=O)C | C2H6OS
product | 6-Chloro-2-(3-phenoxy-propoxy)-3H-pyrido[2,3-d]pyrimidin-4-one | 2.3 mg, 2.5% | ClC1=CC2=C(N=C(NC2=O)OCCCOC2=CC=CC=C2)N=C1 | C16H14ClN3O3
